US05880130
A mixture of 4-[4'-hydroxyanilino]6-(3'-methylanilino)pyrimidine (1.14 g), 1-bromo-2,3-epoxypropane-(0.5 ml) and potassium carbonate (1.24 g) in DMSO (12 ml) was stirred at ambient temperature for 16 hours to give 4-[4'-(2,3-epoxypropoxy)anilino]6-(3'-methylanilino) pyrimidine (0.70 g);

reactant | 4-[4'-hydroxyanilino]6-(3'-methylanilino)pyrimidine | 1.14 g | OC1=CC=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=C1 | C17H16N4O
reactant | 1-bromo-2,3-epoxypropane- | 0.5 ml | BrCC1CO1 | C3H5BrO
reactant | potassium carbonate | 1.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 12 ml | CS(=O)C | C2H6OS
product | 4-[4'-(2,3-epoxypropoxy)anilino]6-(3'-methylanilino) pyrimidine | 0.70 g | O1C(COC2=CC=C(NC3=NC=NC(=C3)NC3=CC(=CC=C3)C)C=C2)C1 | C20H20N4O2
